US05331054
5.0 g (33 mmol) of 2-methylindene was dissolved in 80 ml of THF in a 500 ml-glass reactor. While the solution was being cooled, a solution of 1.6M of n-butyl lithium in 21 ml of hexane was gradually dropped into the reactor. After the above substances had been agitated together at room temperature for 1 hour, they were again cooled. Thereafter, 3.1 g of 1, 2-dibromoethane was gradually dropped in. Then, the above substances were agitated together at room temperature for 12 hours, and 50 ml of water was added. Thereafter, the organic phase was separated, and dried. The organic phase was then washed with heptane several times, and dried, thereby obtaining 2.9 g of bis-(2-methylindenyl) ethane.

reactant | 2-methylindene | 33 mmol, 5.0 g | CC=1CC2=CC=CC=C2C1 | C10H10
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | 1, 2-dibromoethane | 3.1 g | BrCCBr | C2H4Br2
reactant | water | 50 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | hexane | 21 ml | CCCCCC | C6H14
product | bis-(2-methylindenyl) ethane | 2.9 g | CC=1C(C2=CC=CC=C2C1)C(C)C1C(=CC2=CC=CC=C12)C | C22H22
